US06251917B1
a) (S)-2-Phenoxy-N-(3-phenylpropan-1-ol-2-yl)benzamide
7.3 g (48 mmol) of (S)-2-amino-3-phenyl-1-propanol were reacted with 10.7 g (50 mmol) of 2-phenoxybenzoic acid by the method of procedure 3c. 17.3 g (100%) of the product were obtained.

reactant | (S)-2-amino-3-phenyl-1-propanol | 48 mmol, 7.3 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | 2-phenoxybenzoic acid | 50 mmol, 10.7 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
product | (S)-2-Phenoxy-N-(3-phenylpropan-1-ol-2-yl)benzamide | 17.3 g, 100% | O(C1=CC=CC=C1)C1=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=CC=C1 | C22H21NO3
